US05863944
Preparation of 8-(2-hydroxy-5-chloroanilinocarbonyl)octanoic acid.
To a cold solution of 2-amino-4-chlorophenol (2.56 g, 17.83 mmol) in tetrahydrofuran (40 mL) was added a solution of hydroxide (0.72 g, 18 mmol) in water (15 mL). The mixture was stirred at 0° C. for 5 min. A solution of methyl azeloyl chloride (3.9 g, 17.67 mmol) in tetrohydrofuran (10 mL) was added dropwise to this mixture. The resulting mixture was stirred at 0° C., then gradually warmed to room temperature, and stirred at room temperature overnight. A solution of sodium hydroxide (2N, 25 mL) was added to the reaction mixture. The mixture was stirred at room temperature and monitored by TLC. When the starting material was no longer visible, the reaction mixture was concentrated in vacuo. The residue was acidified to pH 2, and the precipitated solid was collected by filtration. This crude product was dissolved in methanol (50 mL), decolorized with activated charcoal, and filtered. A small amount of acetone and water was added to the filtrate, and the mixture refrigerated overnight. A solid was formed, collected by filtration, washed with water, and dried to give the product as a pale yellow, crystalline solid (3.0 g, 54%); mp 117°-118° C.; 1H NMR (DMSO-d6) δ7.96 (d. J=2.5 Hz, 1H), 6.95 (dd, J=8.6, 2.6 Hz, 1H), 6.85 Hz, 1H), 2.39 (t, J=7.3 Hz, 2H), 2.19 (t, J=7.3 Hz, 2H), 1.40-1,61 (m, 4H), 1.20-1.35 (m, 6H). Anal. Calcd for C5H20CINO4 :C, 57.42; H, 6.42; N, 4.46. Found: C, 57.24; H, 6.30; N, 4.41.

reactant | 2-amino-4-chlorophenol | 17.83 mmol, 2.56 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | hydroxide | 18 mmol, 0.72 g | [OH-]
reactant | methyl azeloyl chloride | 17.67 mmol, 3.9 g | CC(C(=O)Cl)CCCCCCC(=O)Cl | C10H16Cl2O2
reactant | sodium hydroxide | 2N, 25 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 8-(2-hydroxy-5-chloroanilinocarbonyl)octanoic acid | 3.0 g, 54% | OC1=C(NC(=O)CCCCCCCC(=O)O)C=C(C=C1)Cl | C15H20ClNO4
